US04638008
[5-[3(Dimethylamino)propyl]-6,7,8,9,10,11-hexahydro-5H-cyclooct[b]indol-1-yl]carbamic acid, ethyl ester
To a solution of 1-amino-5-(3-dimethylaminopropyl)-6,7,8,9,10,11-hexahydro-5H-cyclooct[b]indole (5 g, 0.024 mol) and 5 mL of triethylamine in 80 mL dry acetonitrile (under nitrogen), stirred and kept below 20° C., was added 5 mL ethyl chloroformate. The reaction mixture was stirred at 25°-28° C. for 18 hours. The mixture was diluted with diethyl ether and the precipitate (Et3N.HCl) was filtered off and washed with diethyl ether. The filtrate was dried over sodium sulfate, filtered and the filtrate treated with dry hydrogen chloride. On standing a blueish solid separated. This was filtered, washed with diethyl ether, and dried in a vacuum pistol. There was obtained 1.15 g of the title compound as the hydrochloride.

reactant | 1-amino-5-(3-dimethylaminopropyl)-6,7,8,9,10,11-hexahydro-5H-cyclooct[b]indole | 0.024 mol, 5 g | NC1=C2C3=C(N(C2=CC=C1)CCCN(C)C)CCCCCC3 | C19H29N3
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5 mL | ClC(=O)OCC | C3H5ClO2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | [5-[3(Dimethylamino)propyl]-6,7,8,9,10,11-hexahydro-5H-cyclooct[b]indol-1-yl]carbamic acid, ethyl ester | 1.15 g | CN(CCCN1C2=C(C3=C(C=CC=C13)NC(OCC)=O)CCCCCC2)C | C22H33N3O2
